US08426466B2
Synthesis of n-hexyl 2,4-dihydroxybenzoate
2,4-Dihydroxybenzoic acid (5 g) is added to 20 mL of n-hexanol. Concentrated sulfuric acid (5 mL) is added dropwise. The reaction mixture is heated at 60° C. for 6 days. Hexanol is removed under reduced pressure. The residue is recrystallized from methanol/water mixture. The crystals are collected, washed with cold methanol and dried.

reactant | 2,4-Dihydroxybenzoic acid | 5 g | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
solvent | n-hexanol | 20 mL | C(CCCCC)O | C6H14O
product | n-hexyl 2,4-dihydroxybenzoate | OC1=C(C(=O)OCCCCCC)C=CC(=C1)O | C13H18O4
